US08124764B2
A solution of 4-chloro-pyridin-2-ylamine (800 mg, 6.22 mmol) and morpholine (8.1 mL, 93.34 mmol) in N-methyl-2-pyrrolidone (NMP) (2 mL) was heated in a microwave (Emry's Optimizer) at 200° C. for 10 minutes. The resulting solution was directly purified by flash chromatography (SiO2, 95:5:0.5/DCM:MeOH:NH4OH) to give 4-morpholin-4-yl-pyridin-2-ylamine (Int-1). MS found for C9H13N3O as (M+H)+ 180.39. A solution of Int-1 (418 mg, 2.34 mmol) and 3-chloro-pentane-2,4-dione (0.3 mL, 2.45 mmol) in NMP (2.5 mL) was added and heated in a microwave (Emry's Optimizer) at 150° C. for 30 minutes. The resulting solution was directly purified by flash chromatography (SiO2, 96:4:/DCM:MeOH) to give 1-(2-methyl-7-morpholin-4-yl-imidazo[1,2-a]pyridin-3-yl)-ethanone (Int-2). MS found for C14H17N3O2 as (M+H)+ 260.39. A mixture of Int-2 (293 mg, 1.13 mmol) and DMF.DMA (2.3 mL) was heated at 150° C. for 10 hours. The mixture was concentrated and used further without purification. MS found for C17H22N4O2 as (M+H)+ 315.23. A solution of 1-(2-methyl-7-morpholin-4-yl-imidazo[1,2-a]pyridin-3-yl)-ethanone (263 mg, 0.84 mmol), 4-guanidinobenzoic acid hydrochloride (180 mg, 0.841) and 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) (0.25 mL, 1.67 mmol) in DMF (3 mL) was heated in a microwave (Emry's Optimizer) at 150° C. for 30 minutes. The reaction mixture was then diluted with water and acetonitrile and purified by preparative HPLC affording 4-[4-(2-methyl-7-morpholin-4-yl-imidazo[1,2-a]pyridin-3-yl)-pyrimidin-2-ylamino]-benzoic acid after lyophilization. MS found for C23H22N6O3 as (M+H)+ 431.46. To the above carboxylic acid (10 mg, 0.023 mmol) in DMF (1 mL), was added O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU) (13 mg, 0.034 mmol), 1,2-phenylenediamine (5 mg, 0.046 mmol), DIPEA (0.01 mL, 0.068 mmol), and stirred at room temperature for 16 hours. The reaction mixture was diluted with water and acetonitrile and directly purified by preparative HPLC affording the title compound after lyophilization. MS found for C29H28N8O2 as (M+H)+ 521.28. 1H NMR (400 MHz, dmso-d6): δ 9.54 (d, J=8.0 Hz, 1H); 8.41 (d, J=5.6 Hz, 1H); 7.90 (d, J=8.4 Hz, 2H); 7.79 (d, J=8.4 Hz, 2H); 7.11 (d, J=7.6 Hz, 1H); 7.02-6.97 (m, 2H); 6.83 (d, J=7.6 Hz, 2H); 6.71-6.67 (m, 2H); 3.76 (m, 4H); 3.29 (m, 4H); 2.58 (s, 3H).

reactant | DMA | 2.3 mL | CC(=O)N(C)C | C4H9NO
reactant | 1-(2-methyl-7-morpholin-4-yl-imidazo[1,2-a]pyridin-3-yl)-ethanone | 0.84 mmol, 263 mg | CC=1N=C2N(C=CC(=C2)N2CCOCC2)C1C(C)=O | C14H17N3O2
reactant | 4-guanidinobenzoic acid hydrochloride | 180 mg | Cl.N(C(=N)N)C1=CC=C(C(=O)O)C=C1
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.67 mmol, 0.25 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-[4-(2-methyl-7-morpholin-4-yl-imidazo[1,2-a]pyridin-3-yl)-pyrimidin-2-ylamino]-benzoic acid | CC=1N=C2N(C=CC(=C2)N2CCOCC2)C1C1=NC(=NC=C1)NC1=CC=C(C(=O)O)C=C1 | C23H22N6O3
